US04186129
100 mmol of 2-amino-1-(3,4-dimethoxyphenyl)-ethanol is dissolved in 100 ml. of chloroform. After cooling to 0°, a solution of 100 mmol of phosgene in 100 ml. of chloroform is added dropwise so slowly that the internal temperature does not rise above 5°. After one hour of agitation at 5°-10°, 200 mmol of pyridine in 100 ml. of chloroform is added dropwise to the reaction mixture, and the latter is stirred for 3 hours. After washing the organic phase in semisaturated NaCl solution, the mixture is concentrated by evaporation and recrystallized from methanol, thus obtaining in a 75% yield 5-(3,4-dimethoxyphenyl)-2-oxazolidinone, m.p. 114°-117°.

reactant | 2-amino-1-(3,4-dimethoxyphenyl)-ethanol | 100 mmol | NCC(O)C1=CC(=C(C=C1)OC)OC | C10H15NO3
reactant | phosgene | 100 mmol | C(=O)(Cl)Cl | CCl2O
reactant | pyridine | 200 mmol | N1=CC=CC=C1 | C5H5N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-(3,4-dimethoxyphenyl)-2-oxazolidinone | 75% yield | COC=1C=C(C=CC1OC)C1CNC(O1)=O | C11H13NO4
